US07981888B2
2-(2-bromoethoxy)naphthalene
This example was prepared by substituting 1-naphthol with 2-naphthol and substituting 3-bromopropanol with 2-bromoethanol in EXAMPLE 31A.

reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | 2-(2-bromoethoxy)naphthalene | BrCCOC1=CC2=CC=CC=C2C=C1 | C12H11BrO
